US08492372B2
METHYL 4-BROMO-5-FLUORO-2-METHOXYBENZOATE
A solution of methyl 4-bromo-2,5-difluorobenzoate (1.0 g, 3.98 mmol) in dry DMF (10 ml) was cooled down to 0° C. Sodium methoxide (25% in MeOH, 0.91 ml, 3.98 mmol) was dried with activated molecular sieves and slowly added to the starting material. The reaction mixture was stirred at 0° C. for 10 min and then at ambient temperature for 30 min. The mixture was then brought back to 0° C. and quenched with EtOAc (50 ml) and aqueous HCl (1 M, 50 ml). The phases were separated and the aqueous phase was extracted with EtOAc (2×100 ml), dried (Na2SO4), filtered and evaporated to give an oil. The crude product was purified by flash column chromatography (isooctane/EtOAc 9:1) gave the title compound (0.81 g, 75%). MS m/z (rel. intensity, 70 eV) 264 (M+, 30), 262 (M+, 31), 233 (65), 231 (bp), 229 (41).

reactant | methyl 4-bromo-2,5-difluorobenzoate | 3.98 mmol, 1.0 g | BrC1=CC(=C(C(=O)OC)C=C1F)F | C8H5BrF2O2
reactant | Sodium methoxide | 3.98 mmol, 0.91 ml | C[O-].[Na+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | METHYL 4-BROMO-5-FLUORO-2-METHOXYBENZOATE | 0.81 g, 75% | BrC1=CC(=C(C(=O)OC)C=C1F)OC | C9H8BrFO3
